US09260414B2
(a) {(S)-1-[(S)-2-(4-{5′-Fluoro-4′-{(6-fluoro-pyridine-3-carbonyl)-amino}-2′-trifluoromethoxy-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester
To a solution of ((S)-1-{(S)-2-[4-(4′-amino-5′-fluoro-2′-trifluoromethoxy-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (50 mg, 0.09 mmol, Preparation 43) in DCM (0.6 mL, 9 mmol) was slowly added 2-fluoropyridine-5-carbonyl chloride (10 mg, 0.09 mmol;) and the reaction mixture was stirred at room temperature for 5 min and then concentrated to provide a colored solid.

reactant | ((S)-1-{(S)-2-[4-(4′-amino-5′-fluoro-2′-trifluoromethoxy-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.09 mmol, 50 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)F)N)OC(F)(F)F)=O | C27H29F4N5O4
reactant | DCM | 9 mmol, 0.6 mL | C(Cl)Cl | CH2Cl2
reactant | 2-fluoropyridine-5-carbonyl chloride | 0.09 mmol, 10 mg | FC1=NC=C(C=C1)C(=O)Cl | C6H3ClFNO
product | {(S)-1-[(S)-2-(4-{5′-Fluoro-4′-{(6-fluoro-pyridine-3-carbonyl)-amino}-2′-trifluoromethoxy-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)F)NC(=O)C=1C=NC(=CC1)F)OC(F)(F)F)=O | C33H31F5N6O5
